US06551682B1
A reaction flask was loaded with 4-trifluoromethylphenol (8.4 g), anhydrous potassium carbonate (8.6 g), and DMF (15 ml), followed by stirring at room temperature for 15 minutes. To this mixture, 2,6-difluoropyridine (6.0 g) dissolved in DMF (15 ml) was dropwise added in one hour. Thereafter, the temperature was raised up to 60° C., and the mixture was stirred for six hours. Water was added to the reaction mixture, and extraction was carried out with hexane, followed by addition of magnesium sulfate to the extracted liquid for drying. After filtration to remove magnesium sulfate, hexane was removed by an evaporator to give 2-fluoro-6-(4-trifluoromethylphenoxy)-pyridine (8.0 g).

reactant | 4-trifluoromethylphenol | 8.4 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluoropyridine | 6.0 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 2-fluoro-6-(4-trifluoromethylphenoxy)-pyridine | 8.0 g | FC1=NC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C12H7F4NO
